US04415572
A mixture of 14.5 g of 6-[bis(2-chloroethyl)amino]-3,4-dihydrocarbostyril, 8.0 g of 4-methoxybenzylamine and 70 ml of methanol was stirred under reflux for 15 hours. After cooling, to the reaction mixture was added 3.06 g of sodium carbonate and the reaction mixture was stirred under reflux for 8 hours. After cooling, crystals which precipitated were collected by filtration and recrystallized from ethanol to give 8.1 g of 6-[4-(4-methoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 196°-198° C., colorless needles.

reactant | 6-[bis(2-chloroethyl)amino]-3,4-dihydrocarbostyril | 14.5 g | ClCCN(C=1C=C2CCC(NC2=CC1)=O)CCCl | C13H16Cl2N2O
reactant | 4-methoxybenzylamine | 8.0 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | sodium carbonate | 3.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 6-[4-(4-methoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 8.1 g | COC1=CC=C(CN2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C21H25N3O2
